US07671192B2
Preparation of Ethyl 1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazole-4-carboxylate (3)
Ethyl 2-formyl-3-oxopropionate (23.93 g, 0.17 mol) was placed in a flask equipped with mechanical stirrer, gas inlet, gas outlet and reflux condenser. 2-Propanol was added to the flask followed by 2-hydrazinoadenosine (44.45 g, 0.15 mol). The mixture was heated to reflux under stirring for 2-4 hours, following the progress of the reaction by TLC analysis. When the reaction was judged complete, the heat source was removed and the mixture cooled to room temperature. The suspension was cooled under stirring in an ice-bath for 1.5 to 2 hours. The solids were isolated by vacuum filtration, and washed with ice-cold 2-propanol. The product, ethyl 1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazole-4-carboxylate, was dried under reduced pressure to a constant weight.

reactant | Ethyl 2-formyl-3-oxopropionate | 0.17 mol, 23.93 g | C(=O)C(C(=O)OCC)C=O | C6H8O4
reactant | 2-hydrazinoadenosine | 0.15 mol, 44.45 g | N(N)C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H15N7O4
solvent | 2-Propanol | CC(C)O | C3H8O
product | Ethyl 1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazole-4-carboxylate | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)N)N1N=CC(=C1)C(=O)OCC | C16H19N7O6
